US05587389
10. 5-Methoxy-2-{[[4-(2-furylmethylthio)-3-methyl-2-pyridinyl]methyl]thio}-1H-benzimidazole
2-Chloromethyl-4-(2-furylmethylthio)-3-methylpyridine hydrochloride, 5-methoxy-2-mercapto-1H-benzimidazole and sodium hydroxide are reacted in ethanol at 60° C. for 4 h. This gives the title compound as a colorless solid. Yield: 81%, m.p. 106-108° C.

reactant | 2-Chloromethyl-4-(2-furylmethylthio)-3-methylpyridine hydrochloride | Cl.ClCC1=NC=CC(=C1C)SCC=1OC=CC1
reactant | 5-methoxy-2-mercapto-1H-benzimidazole | COC1=CC2=C(NC(=N2)S)C=C1 | C8H8N2OS
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 5-Methoxy-2-{[[4-(2-furylmethylthio)-3-methyl-2-pyridinyl]methyl]thio}-1H-benzimidazole | Yield: 81% | COC1=CC2=C(NC(=N2)SCC2=NC=CC(=C2C)SCC=2OC=CC2)C=C1 | C20H19N3O2S2
